US07408065B2
a) 1-Cyclohexyl Cyclopropanecarboxylic Acid
To 1-phenyl-cyclopropanecarboxylic acid (0.500 g) in acetic acid (2 mL) was added Adams catalyst (0.050 g) in ethanol (0.3 mL). The reaction was left to stir for 48 hours under 5 bar of hydrogen. The reaction was filtered, washing with ethanol (10 mL) and water (10 mL). The resulting solid was collected by filtration and subsequently washed with water (10 mL) to afford the sub-titled compound (0.3 g).

reactant | 1-phenyl-cyclopropanecarboxylic acid | 0.500 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | Adams catalyst | 0.050 g | O=[Pt]=O
solvent | ethanol | 0.3 mL | C(C)O | C2H6O
product | 1-Cyclohexyl Cyclopropanecarboxylic Acid | 0.3 g | C1(CCCCC1)C1(CC1)C(=O)O | C10H16O2
